US06340759B1
(259-8) 7-(4-Ethylpiperazin-1-yl)-5-[4-(2-hydroxyethoxy)phenyl]thieno[2,3-c]pyridine
To 7-(4-ethylpiperazin-1-yl)-5-(4-hydroxyphenyl)thieno[2,3-c]pyridine (130 mg)/dimethylformamide (10 ml) solution was added 60% sodium hydride (23 mg) at room temperature. After the evolution of hydrogen was ceased, dimethyl-(t-butyl)silyloxyethyl bromide (100 mg) was added thereto, and the mixture was reacted at room temperature for 12 hr. Ethyl acetate and an aqueous solution of ammonium chloride were added to the reaction solution. The organic phase was separated, washed with water, dried and concentrated. To the resulting residue were added ethanol (20 ml) and a 2N aqueous solution of hydrochloric acid (10 ml), and the mixture was reacted at 50° C. for 30 min, followed by the evaporation. The resulting residue was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried. The solvent was removed, and the resulting residue was purified by NH-silica gel column chromatography (ethyl acetate), to give 73 mg of the title compound as a pale yellow oil.

reactant | 7-(4-ethylpiperazin-1-yl)-5-(4-hydroxyphenyl)thieno[2,3-c]pyridine | 130 mg | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)O | C19H21N3OS
reactant | sodium hydride | 23 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | dimethyl-(t-butyl)silyloxyethyl bromide | 100 mg | CC(CBr)(O[SiH2]C(C)(C)C)C | C8H19BrOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-(4-Ethylpiperazin-1-yl)-5-[4-(2-hydroxyethoxy)phenyl]thieno[2,3-c]pyridine | 73 mg | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)OCCO | C21H25N3O2S
